US08017630B2
Palladium-on-charcoal (5%, 22 mg) was added to a solution of 2-[4-dimethylamino-4-(3-fluorophenyl)-cyclohexylidene]-N-(3-phenylpropyl)-acetamide (440 mg, 1.1 mmol) in abs. methanol (40 ml). The reaction mixture was hydrogenated at RT under a pressure of 3 bar for 16 h. The catalyst was separated off over Celite and the filtrate was concentrated. After separation of the residue by chromatography on silica gel G [(80 g; EA/MeOH (2:1)], the less polar diastereoisomer of 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-(3-phenylpropyl)acetamide was isolated as a colourless oil in a yield of 15% (64.3 mg) and the more polar diastereoisomer of 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-(3-phenylpropyl)acetamide was isolated as a colourless solid with an m.p. of 119-122° C. in a yield of 72% (314 mg).

reactant | 2-[4-dimethylamino-4-(3-fluorophenyl)-cyclohexylidene]-N-(3-phenylpropyl)-acetamide | 1.1 mmol, 440 mg | CN(C1(CCC(CC1)=CC(=O)NCCCC1=CC=CC=C1)C1=CC(=CC=C1)F)C | C25H31FN2O
catalyst | Palladium-on-charcoal | 22 mg | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-(3-phenylpropyl)acetamide | yield of 15% | CN(C1(CCC(CC1)CC(=O)NCCCC1=CC=CC=C1)C1=CC(=CC=C1)F)C | C25H33FN2O
